US09145415B2
To a solution of (E)-tert-butyl (2-(benzylideneamino)-2-methylpropyl)(methyl)carbamate (G9, 3.17 g) in tetrahydrofuran (25 mL), 5% aqueous citric acid (25 mL) was added at room temperature, and the mixture was stirred at the same temperature for 3 hours. To the reaction mixture, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added. The organic layer was separated, and the aqueous layer was extracted with methylene chloride. The organic layer and the extract were combined, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 0% hexane in ethyl acetate) to obtain tert-butyl (2-amino-2-methylpropyl)(methyl)carbamate (G10, 506 mg).

reactant | (E)-tert-butyl (2-(benzylideneamino)-2-methylpropyl)(methyl)carbamate | C(/C1=CC=CC=C1)=N\C(CN(C(OC(C)(C)C)=O)C)(C)C | C17H26N2O2
reactant | citric acid | 25 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | tert-butyl (2-amino-2-methylpropyl)(methyl)carbamate | NC(CN(C(OC(C)(C)C)=O)C)(C)C | C10H22N2O2
